US06887871B2
a) [(3R)-3-(5-Chloro-2-cyanophenoxy)-3-(2-thiazolyl)propyl]methylcarbamic acid 1,1-dimethylethyl ester
To a solution of [(3R)-3-(5-chloro-2-cyanophenoxy)-3-(2-thiazolyl)propyl]-carbamic acid 1,1-dimethylethyl ester (200 mg, 0.51 mmol) in dry tetrahydrofuran (10 ml), was added sodium hydride (56 mg, 60% dispersion in oil, 1.41 mmol) and stirred at room temperature for 15 minutes. Iodomethane (1.325 g, 0.58 ml, 4.7 mmol) was added. The reaction was stirred at room temperature for 18 h, quenched with saturated ammonium chloride solution and partitioned between ethyl acetate and water. The combined extracts were washed with water (3×25 ml) and saturated brine solution, dried (magnesium sulphate) and concentrated in vacuo to leave a crude yellow gum. Flash chromatography (silica, 25% ethyl acetate in isohexane) afforded 175 mg of an opaque oil (98%).

reactant | [(3R)-3-(5-chloro-2-cyanophenoxy)-3-(2-thiazolyl)propyl]-carbamic acid 1,1-dimethylethyl ester | 0.51 mmol, 200 mg | CC(C)(C)OC(NCC[C@H](C=1SC=CN1)OC1=C(C=CC(=C1)Cl)C#N)=O | C18H20ClN3O3S
reactant | sodium hydride | 1.41 mmol, 56 mg | [H-].[Na+]
reactant | Iodomethane | 4.7 mmol, 0.58 ml, 1.325 g | IC | CH3I
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | isohexane | CCCC(C)C | C6H14
product | [(3R)-3-(5-Chloro-2-cyanophenoxy)-3-(2-thiazolyl)propyl]methylcarbamic acid 1,1-dimethylethyl ester | 175 mg, 98% | CC(C)(C)OC(N(C)CC[C@H](C=1SC=CN1)OC1=C(C=CC(=C1)Cl)C#N)=O | C19H22ClN3O3S
